US04025487
11.05 g (0.05 mole) 2,6-di-t-butyl-4-aminophenol is dissolved in 25 ml acetone and 7.03 g (0.05 mole) benzoyl chloride is added thereto. The reaction is exothermic. The mixture is shaken and 10 ml of 5 N sodium hydroxide is added thereto, portionwise, accompanied by agitation. A solid material separates and is allowed to stand for one hour, cooled and there is then added thereto 50 ml water. The mixture is filtered, washed with 50 ml water and then four times each time with 50 ml portions of petroleum ether to remove the red color. The solid material is air dried and there is obtained 14.72 g (a yield of 90.6%) of the 4-benzamido-2,6-di-t-butylphenol product. The solid material is dissolved in 100 ml of 90% ethanol, contacted with a charcoal adsorbent (Darco G-60) and then crystallized. The crystalline material is cooled, filtered, washed with 30 ml cold 90% ethanol and then dried in vacuo over phosphorus pentoxide. The pure product is characterized by a melting point of 209°-210° C.

reactant | 2,6-di-t-butyl-4-aminophenol | 0.05 mole, 11.05 g | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
reactant | benzoyl chloride | 0.05 mole, 7.03 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 5 N, 10 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 4-benzamido-2,6-di-t-butylphenol | yield of 90.6% | C(C1=CC=CC=C1)(=O)NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C21H27NO2
